US06949536B2
2-(4-Formylphenyl)-2-methyl-1,3-dioxolane (Step 1)
To a stirred solution of 2-(4-bromophenyl)-2-methyl-1,3-dioxolane (2.0 g, 8.23 mmol) in THF (7 ml) was added n-BuLi (1.61 M solution in hexane, 5.47 ml, 8.8 mmol) at −78° C. under nitrogen, and the mixture was stirred for 2 hour, then allowed to warm up to 0° C. for 30 min. A solution of 1-formylpiperidine (930 mg, 8.23 mmol) in THF (5 ml) was added, and the mixture was stirred for 2 hours. The mixture was made neutral by addition of 1N HCl solution, and the whole was extracted with diethylether. The organic layer was washed with saturated NaHCO3 aqueous solution, brine, dried over MgSO4, and concentrated in vacuo. The compound was used for next reaction without purification.

reactant | 2-(4-bromophenyl)-2-methyl-1,3-dioxolane | 8.23 mmol, 2.0 g | BrC1=CC=C(C=C1)C1(OCCO1)C | C10H11BrO2
reactant | n-BuLi | 8.8 mmol, 1.61 M, 5.47 ml | [Li]CCCC
reactant | 1-formylpiperidine | 8.23 mmol, 930 mg | C(=O)N1CCCCC1 | C6H11NO
reactant | HCl | 1N | Cl | ClH
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(4-Formylphenyl)-2-methyl-1,3-dioxolane | C(=O)C1=CC=C(C=C1)C1(OCCO1)C | C11H12O3
